US04897393
A mixture of 0.99 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-aminobenzyl)benzoxazole, 2 ml of acetic anhydride and 10 ml of pyridine is stirred at room temperature overnight. 10% Hydrochloric acid is added thereto, and the solution is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove the solvent. The residue is recrystallized from ethyl acetate, whereby 0.56 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-acetamidobenzyl)benzoxazole is obtained.

reactant | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-aminobenzyl)benzoxazole | 0.99 g | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)CC2=CC=C(C=C2)N)C1 | C18H15N3O3S
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-acetamidobenzyl)benzoxazole | 0.56 g | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)CC2=CC=C(C=C2)NC(C)=O)C1 | C20H17N3O4S
